US04102888
Step A-2. Preparation of 3-(1-Acetyloxycyclohexyl)-1-propanol
This compound is prepared essentially by the method as described in Example 4, Step E, except that the benzyl 7-{2-(3-benzyloxy-4-[4-fluorophenoxy]butyl)-1,1,4-trioxo-3thiazolidinyl}heptanoate is replaced by 1-(1-Acetyloxycyclohexyl)-3-benzyloxy-1-propyne and no chromatographic purification is needed. The title compound is obtained as an essentially colorless, mobile liquid which is used immediately in Step A-3 below.

reactant | benzyl 7-{2-(3-benzyloxy-4-[4-fluorophenoxy]butyl)-1,1,4-trioxo-3thiazolidinyl}heptanoate | C(C1=CC=CC=C1)OC(CCC1S(CC(N1CCCCCCC(=O)OCC1=CC=CC=C1)=O)(=O)=O)COC1=CC=C(C=C1)F | C34H40FNO7S
reactant | 1-(1-Acetyloxycyclohexyl)-3-benzyloxy-1-propyne | C(C)(=O)OC1(CCCCC1)C#CCOCC1=CC=CC=C1 | C18H22O3
product | 3-(1-Acetyloxycyclohexyl)-1-propanol | C(C)(=O)OC1(CCCCC1)CCCO | C11H20O3
